US04859670
A mixture of 3.77 g (14 mmol) of 4-(4-hydroxyphenyl)-1(pyrid-2-ylmethyl)piperazine, 200 ml of toluene, 5.88 g (14 mmol) of 2-bromomethyl-2-(2,4-dichlorophenyl)-4-methanesulfonyloxymethyl-1,3-dioxolane, 0.80 g of tetrabutylammonium bromide and 27 ml of 50% strength sodium hydroxide solution was stirred vigorously for 3 hours at 65° C. The phases were subsequently separated at room temperature. The toluene solution was shaken three times with water, dried, filtered and evaporated in vacuo. The residue remaining (8.8 g) was chromatographed on a silica gel S/CH2Cl2 column (diameter 2.6 cm, height 28.0 cm) with elution using CH2Cl2 and CH2Cl2 /C2 5OH mixtures (to a maximum C2H5OH content of 4% by volume). After elution of a preliminary fraction (1.45 g), the fractions which were unary according to TLC were combined and evaporated in vacuo. 6.02 g (=72.4% yield) of 2-bromomethyl-2-(2,4-dichlorophenyl)-4-[4-(4-(pyrid-2-ylmethyl)piperazin-1-yl)phenoxymethyl]-1,3-dioxolane (cis/trans mixture) were obtained as a highly viscous oil, analysis: C27H28BrCl2N3O3 (MW 593.38) calc. C 54.65, H 4.76, Br 13.47, Cl 11.95, N 7.08; found C 53.5, H 4.9, Br 13.1, Cl 13.2, N 6.5%.

reactant | 4-(4-hydroxyphenyl)-1(pyrid-2-ylmethyl)piperazine | 14 mmol, 3.77 g | OC1=CC=C(C=C1)N1CCN(CC1)CC1=NC=CC=C1 | C16H19N3O
reactant | 2-bromomethyl-2-(2,4-dichlorophenyl)-4-methanesulfonyloxymethyl-1,3-dioxolane | 14 mmol, 5.88 g | BrCC1(OCC(O1)COS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl | C12H13BrCl2O5S
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.80 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-bromomethyl-2-(2,4-dichlorophenyl)-4-[4-(4-(pyrid-2-ylmethyl)piperazin-1-yl)phenoxymethyl]-1,3-dioxolane | 6.02 g, 72.4% yield | BrCC1(OCC(O1)COC1=CC=C(C=C1)N1CCN(CC1)CC1=NC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C27H28BrCl2N3O3
